Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
___ 11:00PM BLOOD Hct-39.9*
___ 01:10AM BLOOD WBC-UNABLE TO  RBC-UNABLE TO  Hgb-UNABLE 
TO  Hct-UNABLE TO  MCV-UNABLE TO  MCH-UNABLE TO  MCHC-UNABLE TO  
RDW-UNABLE TO  RDWSD-UNABLE TO  Plt Ct-UNABLE TO 
___ 05:02AM BLOOD WBC-6.6 RBC-3.26* Hgb-11.1* Hct-30.0* 
MCV-92 MCH-34.0* MCHC-37.0 RDW-13.3 RDWSD-44.0 Plt ___
___ 01:10AM BLOOD ___ PTT-24.7* ___
___ 06:40PM BLOOD Glucose-450* UreaN-14 Creat-1.1 Na-138 
K-6.1* Cl-104 HCO3-8* AnGap-26*
___ 09:55PM BLOOD Glucose-385* UreaN-14 Creat-0.8 Na-134* 
K-4.1 Cl-101 HCO3-6* AnGap-27*
___ 11:00PM BLOOD Albumin-4.1
___ 01:10AM BLOOD Calcium-7.3* Phos-1.1* Mg-1.7
___ 11:20AM BLOOD %HbA1c-11.8* eAG-292*
___ 06:26AM BLOOD calTIBC-179* Ferritn-496* TRF-138*
___ 11:20AM BLOOD Triglyc-993* HDL-19* CHOL/HD-14.8 
LDLmeas-69
___ 11:00PM BLOOD Beta-OH-9.8*
___ 09:55PM BLOOD ___ pO2-42* pCO2-22* pH-7.07* 
calTCO2-7* Base XS--23
___ 11:10PM BLOOD ___ pO2-45* pCO2-33* pH-7.38 
calTCO2-20* Base XS--4
___ 09:55PM BLOOD Glucose-372* Lactate-1.9 Na-138 K-3.7 
Cl-111*
___ 05:41AM BLOOD WBC-4.1 RBC-3.33* Hgb-11.1* Hct-32.2* 
MCV-97 MCH-33.3* MCHC-34.5 RDW-14.0 RDWSD-48.1* Plt ___
___ 05:41AM BLOOD Glucose-154* UreaN-10 Creat-0.6 Na-144 
K-3.7 Cl-100 HCO3-27 AnGap-17

 
Brief Hospital Course:
Information for Outpatient Providers: ___ male with a 
past medical history of type 1 diabetes who presented with tooth 
pain and was found to be in DKA with BS 450 - admitted to the 
MICU for initiation of insulin gtt with closure of anion gap - 
transitioned to subcutaneous insulin successfully and discharged 
with basal+bolus insulin regimen. 

TRANSITIONAL ISSUES:
[] Please ensure that patient is checking his FSBG consistently 
and taking his insulin consistently and as prescribed 
[] Patient will need close f/u and titration of insulin in 
setting of recent DKA
[] Patient noted with large increase in triglycerides. Needs f/u 
for underlying etiologies, including genetic causes. 
(Triglycerides, nonfasting 993, HDL 19 cholesterol LDL 281. 
Fasting triglycerides 525, HDL 25, LDL 250) - this may represent 
a familial hypertriglyceridemia given his low HDL. 

ACUTE/ACTIVE ISSUES:
====================
#T1DM w/ hyperglycemia 
#DKA (resolved) 
Presented in DKA secondary possible medication noncompliance, 
though patient states that it was due to glucometer malfunction. 
VBG on admission was notable for pH of 7.07, gap of 26. He was 
admitted to the MICU and started on an insulin gtt with 
resolution of gap. On the floor, he was followed by ___ and 
his insulin regimen was uptitrated. Of note A1c 11.8. He was 
seen by diabetic nurse educator for insulin teaching and sent 
home with a new glucometer + strips and new insulin pens. At 
discharge, his insulin regimen was: 
 -25 units Lantus 
 -7 units Humalog with breakfast and lunch, 9 units Humalog
with dinner
 -Sliding scale 1 units for every 50 above 150 QACH. 1 unit for 
each 50>200 HS. 

#hypokalemia 
#hypophosphatemia 
#hypomagnesemia 
In the setting of DKA. Repleted with improvement 

#Tooth Pain
Examination without any obvious signs of dental 
infection/abscess. 
- outpt follow up

CHRONIC/STABLE ISSUES:
======================
#Anemia
Likely anemia of chronic disease
- CTM

#Hypertriglyceridemia
Triglycerides 993, HDL 19 on ___
Fasting repeat with triglycerides 525, HDL 25, LDL 250
- PCP follow up 
 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Glargine 4 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin

 
Discharge Medications:
1.  Ketone Urine Test (acetone (urine) test) 1 strip urine 
DAILY:PRN blood sugar >220 
please give 45 strips 
RX *acetone (urine) test   DAILY:PRN Disp #*45 Strip Refills:*0 
2.  Glargine 25 Units Breakfast
Humalog 7 Units Breakfast
Humalog 7 Units Lunch
Humalog 9 Units Dinner
Insulin SC Sliding Scale using HUM Insulin
RX *blood sugar diagnostic ___ Guide]   with meals and at 
bedtime Disp #*100 Strip Refills:*0
RX *insulin glargine [Lantus Solostar U-100 Insulin] 100 unit/mL 
(3 mL) AS DIR 25 Units before BKFT; Disp #*5 Syringe Refills:*0
RX *blood-glucose meter ___ Guide Glucose Meter]   with 
meals and at bedtime Disp #*1 Each Refills:*0
RX *insulin lispro [Humalog KwikPen Insulin] 100 unit/mL AS DIR 
Up to 6 Units QID per sliding scale 7 Units before LNCH; Units 
QID per sliding scale 9 Units before DINR; Units QID per sliding 
scale Disp #*2 Syringe Refills:*2
RX *lancets ___ Safe-T-Pro] 23 gauge  with meals and at 
bedtime Disp #*200 Each Refills:*0
RX *insulin syringe-needle U-100 [BD Insulin Syringe] 29 gauge X 
___  with meals and bedtime Disp #*200 Syringe Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
==================
Type I DM 
Diabetic Ketoacidosis 
hypokalemia 
hypophosphatemia 
hypomagnesemia 
Tooth Pain
Hypertriglyceridemia

Secondary:
Anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 
 
It was a pleasure caring for you at ___ 
___.  
 
WHY WAS I IN THE HOSPITAL?  
 - You were admitted for diabetic ketoacidosis 
 
WHAT HAPPENED TO ME IN THE HOSPITAL?  
 - While you were in the hospital, we treated you with insulin 
through an IV drip 
 - We started you on an insulin regimen and adjusted this to 
better control your blood sugars
- You were seen by the diabetic nurse educator who reviewed how 
to appropriately check your blood sugars and use your insulin
 - You were improved so we felt it was safe for you to go home 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
 - IT IS VERY IMPORTANT THAT YOU CONTINUE TO CHECK YOUR BLOOD 
SUGARS 4 TIMES DAILY AND TAKE YOUR DAILY INSULIN! Continue to 
take all your medicines and keep your appointments.  
 
We wish you the best!  
 
Sincerely,  
Your ___ Team  

 
Followup Instructions:
___